US06165800
3-(m-Nitrobenzyloxy)acridine-9-carboxylic acid methylester
3-Hydroxyacridine-9-carboxylic acid methyl ester (14.6 g; 57.7 mmol) was dissolved in 500 ml DMF, then potassium carbonate (25.0 g; 181 mmol) and m-nitrobenzylbromide (15.0 g; 69.4 mmol) were added and stirred at room temperature. After 4 hours the mixture was filtered and the filtrate was evaporated to dryness in vacuo. The residue was dissolved in CH2Cl2 and washed with HCl 1N, NaOH 1N and sodium chloride solution (10%). After drying with sodium sulfate and evaporating to dryness the residue was flash chromatographed (column: 10 cm diameter) in CH2Cl2 +1% methanol (fractions of 200 ml). Fractions 7-23 were combined, evaporated and the residue was collected on a Buchner funnel and washed with diethylether. Yield 8.7 g (39%), Fp.>250° C. 1H-NMR(CDCl3): 5,35(2H, s, CH2) and 4,22 ppm (3H, s, CH3). MS: M+ =388.

reactant | 3-Hydroxyacridine-9-carboxylic acid methyl ester | 57.7 mmol, 14.6 g | COC(=O)C=1C2=CC=CC=C2N=C2C=C(C=CC12)O | C15H11NO3
reactant | potassium carbonate | 181 mmol, 25.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-nitrobenzylbromide | 69.4 mmol, 15.0 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 3-(m-Nitrobenzyloxy)acridine-9-carboxylic acid methylester | COC(=O)C=1C2=CC=CC=C2N=C2C=C(C=CC12)OCC1=CC(=CC=C1)[N+](=O)[O-] | C22H16N2O5
